US03965102
A solution of 21 g (0.06 moles) 1-benzyl-1,2,3,6-tetrahydro-4-(p-methoxystyryl)-pyridine, hydrochloride, from example 6, 37.8 g ground maleic anhydride, 135 ml. glacial acetic acid, 135 ml. acetic anhydride and 20 mg hydroquinone is refluxed under nitrogen for 1/2 hour. The solution is allowed to cool and evaporate to an oil. The crude Diels-Alder adduct (quantitative yield of 2-benzyl-1,2,3,4,6,7,8,8a-octahydro-6-(p-methoxyphenyl)-7,8-isoquinoline-dicarboxylic acid anhydride hydrochloride) is dissolved in 500 ml. methanol and 20 ml. hydrochloric acid in isopropanol and refluxed for 18 hours. The solution is allowed to cool and evaporated. The residue is triturated in ether and solid filtered to afford a quantitative yield of 2-benzyl-1,2,3,4,6,7,8,8a-octahydro-6-(p-methoxyphenyl)-7,8-isoquinoline-dicarboxylic acid, dimethyl ester, hydrochloride. After recrystallization from acetone-ether the mp is 200° to 209°C with decomposition.

reactant | 1-benzyl-1,2,3,6-tetrahydro-4-(p-methoxystyryl)-pyridine, hydrochloride | 0.06 moles, 21 g | Cl.C(C1=CC=CC=C1)N1CCC(=CC1)C=CC1=CC=C(C=C1)OC
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydroquinone | 20 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-benzyl-1,2,3,4,6,7,8,8a-octahydro-6-(p-methoxyphenyl)-7,8-isoquinoline-dicarboxylic acid anhydride hydrochloride | quantitative yield | Cl.C(C1=CC=CC=C1)N1CC2C3C(C(C=C2CC1)C1=CC=C(C=C1)OC)C(=O)OC3=O | InChI=1S/C25H25NO4.ClH/c1-29-19-9-7-17(8-10-19)20-13-18-11-12-26(14-16-5-3-2-4-6-16)15-21(18)23-22(20)24(27)30-25(23)28;/h2-10,13,20-23H,11-12,14-15H2,1H3;1H
